US07691892B2
i) 4-[4-Cyclopropyl-5-(2-m-tolyl-2H-tetrazol-5-ylmethoxy)-4H-[1,2,4]triazol-3-yl]-pyridine
The title compound (4.6 mg, 11%, yellow solid) was prepared from (2-m-tolyl-2H-tetrazol-5-yl)-methanol (1 mmol), sodium hydride (1.5 mmol) and 4-(4-cyclopropyl-5-methanesulfonyl-4H-[1,2,4]triazol-3-yl)-pyridine (1.25 mmol). 1H NMR (CDCl3) δ (ppm): 8.77 (s br, 2H), 7.97 (m, 2H), 7.79 (d, 2H), 7.47 (t, 1H), 7.35 (d, 1H), 5.94 (s, 2H), 3.21 (m, 1H), 2.50 (s, 3H), 1.12 (m, 2H), 0.86 (m, 2H).

reactant | (2-m-tolyl-2H-tetrazol-5-yl)-methanol | 1 mmol | C1(=CC(=CC=C1)N1N=C(N=N1)CO)C | C9H10N4O
reactant | sodium hydride | 1.5 mmol | [H-].[Na+]
reactant | 4-(4-cyclopropyl-5-methanesulfonyl-4H-[1,2,4]triazol-3-yl)-pyridine | 1.25 mmol | C1(CC1)N1C(=NN=C1S(=O)(=O)C)C1=CC=NC=C1 | C11H12N4O2S
product | 4-[4-Cyclopropyl-5-(2-m-tolyl-2H-tetrazol-5-ylmethoxy)-4H-[1,2,4]triazol-3-yl]-pyridine | 4.6 mg, 11% | C1(CC1)N1C(=NN=C1OCC=1N=NN(N1)C=1C=C(C=CC1)C)C1=CC=NC=C1 | C19H18N8O
